US08703810B2
Step 3: 2-(2-Fluoro-3-methoxyphenyl)acetonitrile
To a solution of 1-(chloromethyl)-2-fluoro-3-methoxybenzene (8.6 g, 49.3 mmol) in ethanol (60 mL) and water (10 mL), sodium cyanide (4.8 g, 98.5 mmol) was added. The resulting solution was heated at 70° C. for 16 h. After cooling to room temperature, the solution was poured into water (200 mL) and extracted with ethyl acetate (2×200 mL). The combined organic layers were washed (brine), dried (Na2SO4), and concentrated in vacuo to give the title compound (6.7 g). 1H NMR (CDCl3): δ 7.13-7.07 (m, 1H), 7.02-6.92 (m, 2H), 3.89 (s, 3H), 3.81 (s, 2H).

reactant | 1-(chloromethyl)-2-fluoro-3-methoxybenzene | 49.3 mmol, 8.6 g | ClCC1=C(C(=CC=C1)OC)F | C8H8ClFO
reactant | sodium cyanide | 98.5 mmol, 4.8 g | [C-]#N.[Na+]
solvent | ethanol | 60 mL | C(C)O | C2H6O
solvent | water | 10 mL | O | H2O
solvent | water | 200 mL | O | H2O
product | 2-(2-Fluoro-3-methoxyphenyl)acetonitrile | 6.7 g | FC1=C(C=CC=C1OC)CC#N | C9H8FNO
